US05854275
A solution of 2-(2-benzyloxyethyl) malonic acid mono tert-butyl ester (23.9 g, 81.2 mmol), piperidine (1.31 mL, 13.2 mmol), and paraformaldehyde (3.7 g, 123 mmol) in pyridine (160 mL) was heated at a temperature of 70° C. for 3 hours. After cooling to room temperature, the mixture was poured over ice. The mixture was acidified using 6N HCl solution and then extracted twice with ether; the extracts were combined, washed with brine, dried over MgSO4 and concentrated under vacuum to leave an oil. The oil was chromatographed on silica gel using 6% ethyl acetate in hexane to afford 2-(2-benzyloxyethyl)acrylic acid tert-butyl ester as a clear oil, 18.51 g (87%).

reactant | 2-(2-benzyloxyethyl) malonic acid mono tert-butyl ester | 81.2 mmol, 23.9 g | C(C)(C)(C)OC(C(C(=O)O)CCOCC1=CC=CC=C1)=O | C16H22O5
reactant | piperidine | 13.2 mmol, 1.31 mL | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 123 mmol, 3.7 g | C=O | CH2O
reactant | HCl | 6N | Cl | ClH
solvent | pyridine | 160 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-benzyloxyethyl)acrylic acid tert-butyl ester | C(C)(C)(C)OC(C(=C)CCOCC1=CC=CC=C1)=O | C16H22O3
